US08071591B2
To a solution of 3-(1H-pyrazol-1-yl)cyclopentan-1-one (14.09 g, 93.8 mmol) in MeOH (150 ml) was added portionwise NaBH4 (1.77 g. 46.8 mmol) at 0° C., and stirred for 30 min at room temperature. The reaction mixture was poured into 0.5M HCl and basified with sat. NaHCO3 aq. and then extracted with CH2Cl2. The organic layer was dried over anhyd Na2SO4 followed by the removal of solvent. The crude product was purified by column chromatography (Hexane/EtOAc=2/1→1/1) to yield cis-3-(1H-pyrazol-1-yl)cyclopentanol (10.41 g, 73%) as colorless oil.

reactant | 3-(1H-pyrazol-1-yl)cyclopentan-1-one | 93.8 mmol, 14.09 g | N1(N=CC=C1)C1CC(CC1)=O | C8H10N2O
reactant | NaBH4 | 46.8 mmol, 1.77 g | [BH4-].[Na+]
reactant | HCl | 0.5M | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 150 ml | CO | CH4O
product | cis-3-(1H-pyrazol-1-yl)cyclopentanol | 10.41 g, 73% | N1(N=CC=C1)[C@H]1C[C@H](CC1)O | C8H12N2O
